US08378118B2
Step-III: Preparation of 4-(7-Methoxy-indan-4-yloxy)-3,5-dimethyl-1H-pyrazole
To the suspension of 60% Sodium hydride (2.0 gm, 0.051 moles) in Tetrahydrofuran (20 ml) added a solution of 7-Methoxyindan-4-ol (7.0 gm, 0.042 mole) in Tetrahydrofuran (30 ml) at room temperature. After one hour stirring a solution of 3-Chloro 2,4-pentanedione (9.0 ml, 0.075 mole) in Tetrahydrofuran (20 ml) was added followed by addition of Potassium bromide (3.0 gm, 0.025 mole). The reaction mixture was stirred at 70° C. for 6 hours. The water was added and extracted with Diethyl ether. The Ether layer was separated and distilled off to give an oily mass which was partially purified through a column using 2% Ethyl acetate in Hexane to give crude mass (2.7 gm). The obtained crude mass was stirred with Hydrazine hydrate (1 ml) in 20 ml Ethanol at 10° C. Ethanol was evaporated to dryness. The obtained residue was partitioned between water and Ethyl acetate. The separated Ethyl acetate layer was dried over Sodium sulphate and distilled off to give desired product (2.0 gm).

reactant | Sodium hydride | 0.051 moles, 2.0 gm | [H-].[Na+]
reactant | 7-Methoxyindan-4-ol | 0.042 mole, 7.0 gm | COC1=CC=C(C=2CCCC12)O | C10H12O2
reactant | 3-Chloro 2,4-pentanedione | 0.075 mole, 9.0 ml | ClC(C(C)=O)C(C)=O | C5H7ClO2
reactant | Potassium bromide | 0.025 mole, 3.0 gm | [Br-].[K+]
reactant | Hydrazine hydrate | 1 ml | O.NN
solvent | Tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | Ethanol | 20 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-(7-Methoxy-indan-4-yloxy)-3,5-dimethyl-1H-pyrazole | 2.0 gm, Yield: 18.1% | COC=1C=CC(=C2CCCC12)OC=1C(=NNC1C)C | C15H18N2O2
